US05721245
6.6 ml of a 1.6M solution of n-butyllithium in n-hexane were added to a stirred solution of 1.11 g of diisopropylamine in 150 ml of tetrahydrofuran at -78° C. under nitrogen. The mixture was allowed to warm to -20° C. for 5 minutes and was then again cooled to -78° C. Then, 1.85 g of 6,7,8,9-tetrahydropyrido[1,2-a]indol-6-one in 10 ml of tetrahydrofuran were added dropwise. After stirring at -78° C. for 0.5 hour, 1.19 g of ethyl chloroformate were added and the mixture was allowed to warm to room temperature. The solvent was removed by evaporation and the residue was partitioned between diethyl ether and 2M hydrochloric acid. The ethereal extracts were washed with saturated sodium bicarbonate solution, dried and concentrated to give an oil. This oil was purified by chromatography on silica gel with dichloromethane. Crystallization of the product from methanol gave 1.35 g of ethyl 6,7,8,9-tetrahydro-6-oxopyrido[1,2-a]indole-7-carboxylate of melting point 82°-84° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 1.11 g | C(C)(C)NC(C)C | C6H15N
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indol-6-one | 1.85 g | C1=C2C=C3N(C2=CC=C1)C(CCC3)=O | C12H11NO
reactant | ethyl chloroformate | 1.19 g | ClC(=O)OCC | C3H5ClO2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 6,7,8,9-tetrahydro-6-oxopyrido[1,2-a]indole-7-carboxylate | 1.35 g | O=C1C(CCC=2N1C1=CC=CC=C1C2)C(=O)OCC | C15H15NO3
